Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Nsaids / Ambien
 
Attending: ___.
 
Chief Complaint:
coronary artery disease
 
Major Surgical or Invasive Procedure:
left heart catheterization, intravascular ultrasound, placement 
of intra aortic balloon ___
Urgent coronary artery bypass grafts x3(LIMQA-LAD,SVG-OM1->OM2) 
___

 
History of Present Illness:
This ___ year old female with known coronary disease was referred 
to ___ for elective intravascular ultrasound of left main and 
left anterior descending disease as wire tracings at outside 
catheterization was inconclusive for vascular significance.
 
Past Medical History:
type 2 diabetes mellitus
hypertension
hyperlipidemia
abd. aortic aneurysm (3.2cm)
gastroesophageal reflux
Obesity
prior renal failure with NSAID use
s/p lumbar laminectomy
s/p cervical laminectomy
Depression
s/p Bilateral knee replacement
s/p Appendectomy
s/p Tonsillectomy
s/p Cystocele/Rectocele repair

 
Social History:
___
Family History:
-Sister with CABG in her early ___.
-Brother with coronary stents in his early ___.
-Mother died of CHF at age ___.
-Father died from an MI at age ___.
 
Physical Exam:
Admission:

Pulse: 65 Resp:Intubated  O2 sat: 95%
B/P  Right: 140/84   Left: 140/63
Height: 5'4"    Weight:210 pounds

General: intubated and sedated on propofol with IABP 1:1 on
dopamine and neo drips for b/p 
Skin: Dry [x] intact [x]
HEENT: PERRLA [x]
Neck:  Supple [x] 
Chest: Lungs clear bilaterally [x] intubated 
Heart: RRR [x]  Irregular []  Murmur none 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x] obese no palpable masses 
Extremities: Cool perfused []  Edema none Varicosities: None [x]
Neuro: intubated and sedated - propofol stopped briefly - able 
to
open eyes to command - grasp with both hands to voice, withdraws
to painful stimuli with all 4 extremties 
Pulses:
Femoral      Right: IABP  Left: +1
DP           Right: D  Left: D
___           Right: D  Left: D
Radial       Right: +1  Left: +1

Carotid Bruit        Right: no bruit     Left: no bruit 

 
Pertinent Results:
___ 02:44AM BLOOD WBC-11.8* RBC-3.13* Hgb-10.0* Hct-27.5* 
MCV-88 MCH-31.8 MCHC-36.3* RDW-14.2 Plt ___
___ 12:26PM BLOOD WBC-18.9* RBC-4.65 Hgb-13.8 Hct-41.4 
MCV-89 MCH-29.6 MCHC-33.2 RDW-13.1 Plt ___
___ 02:44AM BLOOD Glucose-129* UreaN-13 Creat-0.8 Na-138 
K-4.0 Cl-104 HCO3-26 AnGap-12
___ 07:30AM BLOOD Glucose-126* UreaN-15 Creat-0.8 Na-140 
K-4.4 Cl-104 HCO3-26 AnGap-14
___ 05:21AM BLOOD CK-MB-7
___ 07:23PM BLOOD CK-MB-6 cTropnT-0.06*
___ 12:26PM BLOOD CK-MB-2 cTropnT-<0.01

PREBYPASS 
No atrial septal defect is seen by 2D or color Doppler. There is 
mild symmetric left ventricular hypertrophy. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) are mildly thickened. Trace aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Trivial 
mitral regurgitation is seen. Mild to moderate tricuspid 
regurgitation is present. There is a well position intra-aortic 
balloon pump catheter in the descending thoracic aorta

POSTBYPASS
Biventricular systolic pressure remains preserved. The remaining 
study is unchanged from prebypass.   
  I certify that I was present for this procedure in compliance 
with ___ regulations.

Electronically signed by ___, MD, Interpreting 
physician ___ ___ 11:___t catheterization she developed hypotension during ultrasound 
and an intra aortic balloon was placed and pressors begun.  She 
continued to be mildly hypotensive after that and medications 
were adjusted.  On ___ she was taken to the Operating Room 
where revascularization was undertaken as noted in the operative 
note.  She weaned from bypass with the balloon in place, Neo 
Synephrine and Propofol infusions. She transiently lost foot 
pulses, but these returned.  She was stable, the intra aortic 
balloon was removed on POD 1 and she was aggressively diuresed 
for fluid overload.

A Lasix infusion was continued for 48 hours and she was 
extubated on POD 2. CTs and pacing wires were removed on POD 3, 
she remained stable.  Beta blockade was resumed and oral 
diuretics begun.  Physical Therapy was consulted for mobility 
and strength.  She continued to make good progress and was 
cleared for discharge to ___ an Rehab 
on  ___.  All follow up appointments  were made.

 
Medications on Admission:
ATENOLOL 100 mg QHS
ATORVASTATIN 40 mg QHS
ISOSORBIDE MONONITRATE 60 mg QAM
OLMESARTAN 20 mg QHS
ASPIRIN 325 mg QHS
OMEPRAZOLE MAGNESIUM 20 QHS
.
METFORMIN 500 mg TID
CYMBALTA 60 mg Daily
CALCIUM CARBONATE 600/VIT D3 400U QHS
 
Discharge Medications:
1. influenza vaccine tr-s 10 (PF) 45 mcg (15 mcg x 3)/0.5 mL 
Syringe Sig: One (1) ML Intramuscular NOW X1 (Now Times One 
Dose) for 1 doses.  
2. tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. atorvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
5. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO DAILY (Daily) as needed for constipation.  
6. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
7. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for temperature >38.0.  
8. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for wheezing. 
 
9. duloxetine 60 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
10. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
11. metformin 500 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).  
12. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
13. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for constipation.  
14. furosemide 40 mg Tablet Sig: One (1) Tablet PO once a day 
for 7 doses.  
15. potassium chloride 20 mEq Tab Sust.Rel. Particle/Crystal 
Sig: One (1) Tab Sust.Rel. Particle/Crystal PO once a day for 7 
days.  
16. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
coronary artery disease
obesity
noninsulin dependent diabete mellitus
s/p coronary artery bypass grafts
s/p bilateral total knee replacement
hyperlipidemia
hypertension
depression
gastroesophageal reflux
s/p cystocoele repair
s/p lumbar laminectomy
s/p cervical laminectomy

 
Discharge Condition:
Alert and oriented x3, nonfocal 
Ambulating with steady gait
Incisional pain managed with Tramadol
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage. 
Edema:1+ 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___